US08895733B2
2-{[4-Amino-6-(5-furan-2-yl-[1,2,4]oxadiazol-3-yl)-[1,3,5]triazin-2-yl]-phenyl-amino}-ethanol (Method 5)
6-(5-Furan-2-yl-[1,2,4]oxadiazol-3-yl)-N-phenyl-[1,3,5]triazine-2,4-diamine (prepared in an analogous manner to Example 2, 100 mg, 310 μmol) and potassium carbonate (86 mg, 620 μmol) were stirred together in a sealed tube in DMF (5 ml). 2-Bromoethanol (26 μL, 310 μmol) was added and the reaction was heated at 110 C for 18 h. Potassium carbonate (43 mg, 310 μmol) and 2-bromoethanol (26 μL, 310 μmol) were added and the reaction stirred at 110 C for a further 18 h. After cooling and evaporation of the solvent the crude residue was dissolved in water (30 mL) and extracted twice with DCM (30 mL). The combined organic extracts were washed with brine (30 mL), dried over anhydrous sodium sulfate and concentrated under vacuum. The crude residue was purified using prep HPLC method B to give the desired title compound (14 mg, 12%).

reactant | 6-(5-Furan-2-yl-[1,2,4]oxadiazol-3-yl)-N-phenyl-[1,3,5]triazine-2,4-diamine | O1C(=CC=C1)C1=NC(=NO1)C1=NC(=NC(=N1)NC1=CC=CC=C1)N | C15H11N7O2
reactant | potassium carbonate | 620 μmol, 86 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Bromoethanol | 310 μmol, 26 μL | BrCCO | C2H5BrO
reactant | Potassium carbonate | 310 μmol, 43 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 310 μmol, 26 μL | BrCCO | C2H5BrO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-{[4-Amino-6-(5-furan-2-yl-[1,2,4]oxadiazol-3-yl)-[1,3,5]triazin-2-yl]-phenyl-amino}-ethanol | 14 mg, 12% | NC1=NC(=NC(=N1)C1=NOC(=N1)C=1OC=CC1)N(CCO)C1=CC=CC=C1 | C17H15N7O3
